US06906063B2
To a suspension of hexamethylenetetramine (HMTA) (3.12 g, 22.2 mmol) in CHCl3 (35 mL) was added 2-chloro-5-chloromethylthiophene (1.02 mL, 8.46 mmol). The reaction mixture was heated at reflux for 4 hr, cooled, and filtered to give white solid 5-chloro-2-[(1,3,5,7-tetraazatricyclo-[3.3.1.1(3,7)]decyl) methyl]thiophene (2.28 g, 88%). ES-MS (M)+=271, 273 (Cl). 1H-NMR (DMSO-d6): δ 4.27 (s, 2H), 4.39-4.57 (ABq, 6H), 5.06 (s, 6H), 7.21-7.24 (ABq, 2H).

reactant | hexamethylenetetramine | 22.2 mmol, 3.12 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 2-chloro-5-chloromethylthiophene | 8.46 mmol, 1.02 mL | ClC=1SC(=CC1)CCl | C5H4Cl2S
solvent | CHCl3 | 35 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-2-[(1,3,5,7-tetraazatricyclo-[3.3.1.1(3,7)]decyl) methyl]thiophene | 2.28 g, 88% | ClC1=CC=C(S1)CC1N2CN3CN(CN1C3)C2 | C11H15ClN4S
